US07189750B2
Preparation of 2-(4-Isobutyl-phenyl)-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-propionamide (Pet-152)
Pet-152 was prepared according to the general procedure described hereinabove and the procedure described above for the preparation of Pet-154, using 2-(4-isobutyl-phenyl)-propionic acid (Ibuprofen) and 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine (Pet-10) as the starting materials, in an overall yield of 63%.

reactant | 2-(4-isobutyl-phenyl)-propionic acid | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
reactant | 4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-ylamine | CC=1N=C(SC1CCO[N+](=O)[O-])N | C6H9N3O3S
product | 2-(4-Isobutyl-phenyl)-N-[4-methyl-5-(2-nitrooxy-ethyl)-thiazol-2-yl]-propionamide | yield of 63% | C(C(C)C)C1=CC=C(C=C1)C(C(=O)NC=1SC(=C(N1)C)CCO[N+](=O)[O-])C | C19H25N3O4S
